US06133271
Following the procedure of Example 97, the reaction of 2-methylimidazole with 2-chloro-5-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine gives 2-(2-methylimidazol-1-yl)-5-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | 2-chloro-5-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC=C2C)NCCC2=CC1=C(C=C2)OCO1 | C16H14ClN3O2S
product | 2-(2-methylimidazol-1-yl)-5-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | CC=1N(C=CN1)C=1N=C(C2=C(N1)SC=C2C)NCCC2=CC1=C(C=C2)OCO1 | C20H19N5O2S
